US06316637B1
3-Methyl-4-bromo-5-(imidazolin-2-ylamino)benzimidazole.
A solution of 3-methyl-4-bromo-5-aminobenzimidazole (0.31 g, 1.4 mmol) and ISA (0.6 g, 4.5 mmol) in 10 ml of isobutanol was stirred at reflux for 12 h. Oily residue obtained was subjected to column chromatography (NH3 sat'd 20% isopropanol/EtOAc) to yield 0.39 g (1.3 mmol, 93%) of the desired product. The product obtained was converted to the fumarate salt and recrystallized from MeOH to afford 0.50 g (68%) of the product as a white solid: mp 209-210° C.; Anal. Calc. for C11H12N5Br.2.0C4H4O4. requires C, 43.36; H, 3.83; N, 13.31. Found: C, 43.66; H, 3.84; N, 13.10.

reactant | 3-methyl-4-bromo-5-aminobenzimidazole | 1.4 mmol, 0.31 g | CN1C=NC2=C1C(=C(C=C2)N)Br | C8H8BrN3
reactant | NH3 | N | H3N
solvent | isobutanol | 10 ml | C(C(C)C)O | C4H10O
product | 3-Methyl-4-bromo-5-(imidazolin-2-ylamino)benzimidazole | 1.3 mmol, 0.39 g, 93% | CN1C=NC2=C1C(=C(C=C2)NC=2NCCN2)Br | C11H12BrN5
